US04495198
7-(2,3-Epoxypropoxy)-3-phenylchromone
7-Hydroxy-3-phenylchromone and epichlorohydrin were reacted according to general procedure A, and the product obtained was white prisms, m.p. 151°-152° (83% crude yield) from isopropyl alcohol.

reactant | 7-Hydroxy-3-phenylchromone | OC1=CC=C2C(C(=COC2=C1)C1=CC=CC=C1)=O | C15H10O3
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 7-(2,3-Epoxypropoxy)-3-phenylchromone | O1C(COC2=CC=C3C(C(=COC3=C2)C2=CC=CC=C2)=O)C1 | C18H14O4
